US20010021718A1
(3R)-6-Cyclohexyl-3{-3-[(propylamino)carbonyl]-1,2,4-oxadiazol-5-yl}hexanoic acid
A solution of (3R)-6-cyclohexyl-3-[3-(ethoxycarbonyl)-1,2,4-oxadiazol-5-yl]hexanoic acid (Preparation 4) (107 mg, 0.31 mmol) in toluene (2 ml) was treated with n-propylamine (250 μl, 3.10 mmol) and the mixture was heated at 125° C. in a sealed vessel for 2 hours. The mixture was cooled to room temperature, diluted with ethyl acetate and washed sequentially with aqueous citric acid solution (5% w/v), water and brine, dried over anhydrous sodium sulphate, filtered and the solvent removed under reduced pressure. The residue was purified by column chromatography on silica gel eluting with a gradient system of dichloromethane:ethyl acetate (80:20) gradually changing to dichloromethane:ethyl acetate (60:40) then to dichloromethane:methanol (90:10) to afford the title compound as an oil (76 mg).

reactant | (3R)-6-cyclohexyl-3-[3-(ethoxycarbonyl)-1,2,4-oxadiazol-5-yl]hexanoic acid | 0.31 mmol, 107 mg | C1(CCCCC1)CCC[C@H](CC(=O)O)C1=NC(=NO1)C(=O)OCC | C17H26N2O5
reactant | n-propylamine | 3.10 mmol, 250 μl | C(CC)N | C3H9N
solvent | toluene | 2 ml | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (3R)-6-Cyclohexyl-3{-3-[(propylamino)carbonyl]-1,2,4-oxadiazol-5-yl}hexanoic acid | 76 mg | C1(CCCCC1)CCC[C@H](CC(=O)O)C1=NC(=NO1)C(=O)NCCC | C18H29N3O4
